US04067720
43 g of 3-chlorophenyl isocyanate were added to a solution of 29.4 g of 3-hydroxy-5-ethoxy-1,2,4-thiadiazole in 300 ml of tetrahydrofuran and the mixture was stirred for 21/2 hours at 20° C. The mixture was evaporated to dryness under reduced pressure and the residue was crystallized from ethyl acetate to obtain 26 g of 2-(N-m-chlorophenylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one melting at 141° C.

reactant | 3-chlorophenyl isocyanate | 43 g | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
reactant | 3-hydroxy-5-ethoxy-1,2,4-thiadiazole | 29.4 g | OC1=NSC(=N1)OCC | C4H6N2O2S
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-(N-m-chlorophenylcarbamoyl)-5-ethoxy-1,2,4-thiadiazole-3-one | 26 g | ClC=1C=C(C=CC1)NC(=O)N1SC(=NC1=O)OCC | C11H10ClN3O3S
